US08623859B2
4-Methoxy-N,2,6-trimethyl-N-{[5-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-thiadiazol-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure BK using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-thiadiazole-2-carboxylate (100 mg, 0.26 mmol), 1-(1-methyl-piperidin-4-ylmethyl)-piperazine (61 mg, 0.31 mmol), trimethylaluminium (2 M in toluene, 0.28 mL) and THF (10 mL).

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-thiadiazole-2-carboxylate | 0.26 mmol, 100 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(S1)C(=O)OC)C | C15H19N3O5S2
reactant | 1-(1-methyl-piperidin-4-ylmethyl)-piperazine | 0.31 mmol, 61 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | trimethylaluminium | 2 M, 0.28 mL | C[Al](C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-N,2,6-trimethyl-N-{[5-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-thiadiazol-2-yl]methyl}benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1SC(=NN1)C(=O)N1CCN(CC1)CC1CCN(CC1)C)C)C | C25H38N6O4S2
